US04517187
To a stirred solution of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride (10.0 g, 0.0285 m) in trifluoroacetic acid (100 ml) maintained at 0° under nitrogen was added dropwise over a period of 30 minutes 90% nitric acid (25 ml). The mixture was stirred for 2 hours, then poured onto ice (1000 ml). Chloroform (200 ml) was added and the mixture basified to pH 11 with 50% NaOH. The layers were separated and the aqueous phase extracted with chloroform (2×200 ml). The combined chloroform extracts were washed with water (500 ml), dried over MgSO4, and evaporated to a yellow oil, 9.8 g. This was dissolved in methanol (200 ml), filtered, and the filtrate acidified with HCl gas. A white solid crystallized upon standing which was collected by filtration. This solid was recrystallized twice from methanol (200 ml) and water (10 ml) and vacuum dried at 95° for 24 hours to give 4.04 g of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-nitrophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 251°-252°.

reactant | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 10.0 g | Cl.Cl.CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1
reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | Chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | NaOH | [OH-].[Na+]
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-(4-nitrophenyl)-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 4.04 g | Cl.Cl.CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=C(C=C2)[N+](=O)[O-])CC1 | InChI=1S/C19H21N3O2.2ClH/c1-20-10-11-21-12-18(14-6-8-15(9-7-14)22(23)24)16-4-2-3-5-17(16)19(21)13-20;;/h2-9,18-19H,10-13H2,1H3;2*1H/t18-,19-;;/m0../s1
